US07745641B2
In a similar manner to Step 4 of Example 140, 7-amino-4-(4-tert-butyldimethylsilyloxy-3-methoxyphenyl)isoindolinone (43.0 mg, 0.110 mmol) was dissolved in acetonitrile (6 mL), and the solution was treated with potassium iodide (29.2 mg, 0.176 mmol), copper iodide (33.5 mg, 0.896 mmol), iodine (44.7 mg, 0.896 mmol) and tert-butyl nitrate (0.059 mL, 0.50 mmol), followed by purification by preparative thin-layer chromatography (chloroform/acetonitrile=5/1) to obtain 7-iodo-4-(4-tert-butyldimethylsilyloxy-3-methoxyphenyl)isoindolinone (33.8 mg, yield 62%).

reactant | 7-amino-4-(4-tert-butyldimethylsilyloxy-3-methoxyphenyl)isoindolinone | 0.110 mmol, 43.0 mg | NC=1C=CC(=C2CNC(C12)=O)C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)OC | C21H28N2O3Si
reactant | potassium iodide | 0.176 mmol, 29.2 mg | [I-].[K+]
reactant | iodine | 0.896 mmol, 44.7 mg | II | I2
reactant | tert-butyl nitrate | 0.50 mmol, 0.059 mL | [N+](=O)(OC(C)(C)C)[O-] | C4H9NO3
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
catalyst | copper iodide | 0.896 mmol, 33.5 mg | [Cu](I)I
product | 7-iodo-4-(4-tert-butyldimethylsilyloxy-3-methoxyphenyl)isoindolinone | 33.8 mg, yield 62% | IC=1C=CC(=C2CNC(C12)=O)C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)OC | C21H26INO3Si
